US04415580
A solution containing 60 g of dimethylformamide dimethyl acetal and 50 g of 2,4-pentanedione was heated on a steam bath for 2.5 hours and cooled. To the resulting solution containing 3-dimethylaminomethylene-2,4-pentanedione was added 300 ml of methanol, 27 g of sodium methoxide and 47 g of cyanoacetamide. The resulting mixture was heated on a steam bath for 4 hours, the hot solution poured into 700 ml of water, and the aqueous mixture acidified with acetic acid and chilled in an ice bath. The solid that separated was collected, dried, and heated with 400 ml. of methanol. Insoluble material was filtered from the hot methanol mixture and the filtrate cooled. The product that separated was collected and dried at 90° C. to produce 24.6 g of 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinonitrile, m.p. 227°-230° C. [Sunthankar et al., supra, m.p. 231° C.]

reactant | dimethylformamide dimethyl acetal | 60 g | COC(N(C)C)OC | C5H13NO2
reactant | 2,4-pentanedione | 50 g | CC(CC(C)=O)=O | C5H8O2
reactant | 3-dimethylaminomethylene-2,4-pentanedione | CN(C)C=C(C(C)=O)C(C)=O | C8H13NO2
reactant | sodium methoxide | 27 g | C[O-].[Na+]
reactant | cyanoacetamide | 47 g | C(#N)CC(=O)N | C3H4N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 700 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinonitrile | 24.6 g | C(C)(=O)C1=C(NC(C(C#N)=C1)=O)C | C9H8N2O2
